US06069159
To a suspension of bis (triphenylphosphine)-palladium (II) chloride (300 mg, 0.42 mmol) and copper (I) iodide (100 mg, 0.50 mmol) in diisopropylamine (100 ml) under nitrogen was added 3-bromothiophene (4.9 g, 30 mmol). After reflux under nitrogen for 1.5 h a solution of propargyl alcohol (3.0 g, 33 mmol) in diisopropylamine (50 ml) was added. After reflux for 5 h the reaction mixture was cooled, filtered and concentrated in vacuo. The residue was submitted to flash chromatography using ether/petroleum ether (1:1) as eluent to give 2 g (48%) of 3-(3-thienyl)-2-propyn-1-ol as a crude product.

reactant | 3-bromothiophene | 30 mmol, 4.9 g | BrC1=CSC=C1 | C4H3BrS
reactant | propargyl alcohol | 33 mmol, 3.0 g | C(C#C)O | C3H4O
solvent | diisopropylamine | 100 ml | C(C)(C)NC(C)C | C6H15N
solvent | diisopropylamine | 50 ml | C(C)(C)NC(C)C | C6H15N
catalyst | bis (triphenylphosphine)-palladium (II) chloride | 0.42 mmol, 300 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 0.50 mmol, 100 mg | [Cu]I
product | 3-(3-thienyl)-2-propyn-1-ol | 2 g, 48% | S1C=C(C=C1)C#CCO | C7H6OS
